US07915250B2
A solution of 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine (100 mg, 0.22 mmol), PyBOP (131 mg, 0.25 mmol), N,N-diisopropylethylamine (80 μL, 0.44 mol) and bromoacetic acid (35 mg, 0.25 mmol) in dimethylformamide (1 mL) was stirred at room temperature for 15 hours. The reaction mixture was concentrated in vacuo and the resultant residue was purified by column chromatography eluting with 80% ethyl acetate in hexanes to afford 2-bromo-N-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]acetamide (102 mg, 82% yield) as a white foam. MS (EI) for C18H14BrF3IN3O2: 568.

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine | 0.22 mmol, 100 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)N)NC1=C(C=C(C=C1)I)F | C16H13F3IN3O
reactant | PyBOP | 0.25 mmol, 131 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.44 mol, 80 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoacetic acid | 0.25 mmol, 35 mg | BrCC(=O)O | C2H3BrO2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-bromo-N-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]acetamide | 102 mg, 82% yield | BrCC(=O)NC1CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C18H14BrF3IN3O2
